US05824691
A mixture of dimethyl 5-(pyrrol-1-yl)isophthalate (80.0 g) and potassium hydroxide (20.2 g) in methanol (3.1 l) was stirred for 62 hours at 68° C. After being cooled to room temperature, the solvent was evaporated in vacuo. The residue was dissolved in water and the solution was washed with ethyl acetate. The aqueous layer was acidified with hydrochloric acid (25.5 ml) and extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was triturated with diethyl ether to afford 3-methoxycarbonyl-5-(pyrrol-1-yl)benzoic acid (53.7 g).

reactant | dimethyl 5-(pyrrol-1-yl)isophthalate | 80.0 g | N1(C=CC=C1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C14H13NO4
reactant | potassium hydroxide | 20.2 g | [OH-].[K+]
solvent | methanol | 3.1 l | CO | CH4O
product | 3-methoxycarbonyl-5-(pyrrol-1-yl)benzoic acid | 53.7 g | COC(=O)C=1C=C(C(=O)O)C=C(C1)N1C=CC=C1 | C13H11NO4
